US04000302
(i) A solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]-imidazole (6.9 g) and ethyl isothiocyanate (3.84 g) in ethanol was heated under reflux for 2 hours. Concentration followed by recrystallisation of the residue from aqueous ethanol gave N-ethyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea (9.0 g), m.p. 140°-141°.

reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]-imidazole | 6.9 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | ethyl isothiocyanate | 3.84 g | C(C)N=C=S | C3H5NS
solvent | ethanol | C(C)O | C2H6O
product | N-ethyl-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiourea | 9.0 g | C(C)NC(=S)NCCSCC1=C(N=CN1)C | C10H18N4S2
